US07354933B2
A mixture of 2 g of L-alanine ethyl ester in hydrochloride form and 1.83 ml of triethylamine in 30 ml of dichloromethane is stirred at room temperature for 10 minutes. Next, 2.05 g of quinoline-4-carbaldehyde are added. The reaction medium is stirred at room temperature for 15 hours and then concentrated under reduced pressure. 35 ml of ethanol are then added; the solution is cooled to 0° C. and 0.49 g of sodium borohydride is then added portionwise. Stirring is continued for 15 hours at room temperature. The precipitate formed is filtered off; the filtrate is concentrated under reduced pressure. The residue is purified by flash chromatography on a column (SiO2, CH2Cl2/MeOH, 95/5 by volume as eluent, Ar). 0.71 g of ethyl (S)-2-[(quinol-4-ylmethyl)amino]propanoate is obtained in the form of a pink oil.

reactant | L-alanine ethyl ester | 2 g | C(C)OC([C@@H](N)C)=O | C5H11NO2
reactant | triethylamine | 1.83 ml | C(C)N(CC)CC | C6H15N
reactant | quinoline-4-carbaldehyde | 2.05 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
solvent | hydrochloride | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | ethyl (S)-2-[(quinol-4-ylmethyl)amino]propanoate | 0.71 g | N1=CC=C(C2=CC=CC=C12)CN[C@H](C(=O)OCC)C | C15H18N2O2
